US06828460B2
4-{2,4-Bis [tert-butyl(dimethyl)silyloxy]phenyl Cyclohexanone Oxime
To a round bottomed flask equipped with magnetic stirrer was added 4-{2,4-bis [tert-butyl(dimethyl)silyloxy]phenyl cyclohexanone (100 mg, 0.23 mmol) and ethanol (5 ml). To the stirred suspension was added hydroxylamine hydrochloride (32 mg, 0.46 mmol) and triethylamine (103 μl, 0.74 mmol), then the solution was heated under reflux temperature for 2.5 hr. The solution was allowed to cool to room temperature then evaporated to dryness in vacuo. The residue was partitioned between ethyl acetate (20 ml) and water (10 ml) and the layers separated. The aqueous layer was extracted with ethyl acetate (3×20 ml) and the combined organic layers washed with brine (10 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The title compound was isolated (103 mg, 100%) as a white. δH(CDCl3) 0.19 (6H, s), 0.24 (6H, s), 0.95 (9H, s), 1.02 (9H, s), 1.43-1.62 (2H, m), 1.77-1.87 (1H, m), 1.93-2.04 (2H, m), 2.18-2.24 (1H, m), 2.46-2.53 (1H, m), 3.05-3.15 (1H, m), 3.41-3.50 (1H, m), 6.30 (1H, d), 6.40 (1H, dd), 6.79 (1H, br), 6.92 (1H, d).

reactant | 2,4-bis [tert-butyl(dimethyl)silyloxy]phenyl cyclohexanone | 0.23 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)C1C(CCCC1)=O | C24H42O3Si2
reactant | hydroxylamine hydrochloride | 0.46 mmol, 32 mg | Cl.NO
reactant | triethylamine | 0.74 mmol, 103 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2,4-Bis [tert-butyl(dimethyl)silyloxy]phenyl Cyclohexanone Oxime | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)C1C(CCCC1)=NO | C24H43NO3Si2
